US05112848
N-hydroxy-N-(1-(1-methyl-5-phenylpyrrol-2-yl)ethyl) N'- methyl urea
N-Benzyloxy-1-(1-methyl-5-phenylpyrrol-2-yl)ethylamine. t-Butyl lithium (4.1 ml, 1.7M in hexanes) was added to a solution of the pyrrole prepared as in step a, above (1.0 g, 6.4 mmole) in THF (25 mL) at -78° C. After stirring for 30 minutes, boron trifluoride etherate (0.99 g, 7.0 mmole) was added followed by O-benzyl acetaldehyde oxime (1.0 g, 7.0 mmole). The mixture was stirred for 15 min, saturated NH4Cl solution was added, and the mixture was allowed to warm to room temperature. The aqueous phase was washed twice with brine, dried over MgSO4 and concentrated. The residue was chromatographed on 100 g of silica gel eluting with 20% ether in hexanes to give 0.34 g of the desired product.

reactant | N-Benzyloxy-1-(1-methyl-5-phenylpyrrol-2-yl)ethylamine | C(C1=CC=CC=C1)ONC(C)C=1N(C(=CC1)C1=CC=CC=C1)C | C20H22N2O
reactant | t-Butyl lithium | 1.7M, 4.1 ml | C(C)(C)(C)[Li]
reactant | pyrrole | N1C=CC=C1 | C4H5N
reactant | boron trifluoride etherate | 7.0 mmole, 0.99 g | B(F)(F)F.CCOCC
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-hydroxy-N-(1-(1-methyl-5-phenylpyrrol-2-yl)ethyl) N'- methyl urea | 0.34 g | ON(C(=O)NC)C(C)C=1N(C(=CC1)C1=CC=CC=C1)C | C15H19N3O2
